US05616590
Preparation of N,N-diethyl-3-(diethylthiocarbamoyloxy)-2-fluoronicotinamide:
250 ml (400 mmol) of n-BuLi (1.6M in hexane) are added to a solution of 57.9 g (410 mmol) of TMP in 750 ml of THF at -10° C. After the mixture has been stirred for 1 hour at -10° C., a solution of 64 g (280 mmol) of 3-diethylthiocarbamoyloxy-2-fluoropyridine in 200 ml of THF is added dropwise at -78° C. in the course of 30 minutes. After the mixture has been stirred for 1 hour at -78° C., 81.4 g (600 mmol) of diethylcarbamoyl chloride are added in the course of 1 minute, the mixture is stirred at -78° C. for 2 hours and heated to -20° C., 130 ml of 3N HCl are added, and the mixture is diluted with 1 l of water and brought to pH 7. The organic phase is washed 3 times with water. The combined aqueous phases are extracted twice using Et2O, and the combined organic phases are washed twice with water, dried over Na2SO4 and concentrated in vacuo at 60° C.: 116 g of a brown oil. Chromatography (ethyl acetate/hexane 1:1) gives 60 g (65% ) of beige crystals of m.p. 87°-92° C.

reactant | n-BuLi | 400 mmol, 1.6M, 250 ml | [Li]CCCC
reactant | 3-diethylthiocarbamoyloxy-2-fluoropyridine | 280 mmol, 64 g | C(C)N(C(=S)OC=1C(=NC=CC1)F)CC | C10H13FN2OS
reactant | diethylcarbamoyl chloride | 600 mmol, 81.4 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | HCl | 3N, 130 ml | Cl | ClH
solvent | THF | 750 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | water | 1 l | O | H2O
product | N,N-diethyl-3-(diethylthiocarbamoyloxy)-2-fluoronicotinamide | 60 g, 65% | C(C)N(C(C1(C(N=CC=C1)F)OC(N(CC)CC)=S)=O)CC | C15H24FN3O2S
